US04847254
N,N-dipropyl-6-methoxy-1-indanmethylamine (Lu 21-097)
12 g of N,N-dipropyl-1-hydroxy-6-methoxy-1-indanmethylamine were dissolved in 100 milliliters of methanol and 7 milliliters of concentrated hydrochloric acid and reduced catalytically with hydrogen at 3 atmospheres and 50 degrees Centigrade for 20 hours with 10 g of 5% palladium on carbon black containing 50% of water as a catalyst. After filtration of the catalyst and evaporation of the methanol 13 grams of product were obtained. The oxalate was precipitated from acetone. M.P. 124°-130° C.

reactant | N,N-dipropyl-1-hydroxy-6-methoxy-1-indanmethylamine | 12 g | C(CC)N(CC1(CCC2=CC=C(C=C12)OC)O)CCC | C17H27NO2
reactant | hydrochloric acid | 7 milliliters | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 milliliters | CO | CH4O
catalyst | palladium on carbon | 10 g | [Pd] | Pd
catalyst | water | O | H2O
product | N,N-dipropyl-6-methoxy-1-indanmethylamine | C(CC)N(CC1CCC2=CC=C(C=C12)OC)CCC | C17H27NO
